US07534273B2
Synthesis of 2-(1,3-benzothiazol-2-yl)-5-methyl-2,4-dihydro-3H-pyrazol-3-one
2 g (12.1 mmol) of 2-hydrazino-1,3-benzothiazole and 1.58 g (12.1 mmol) of acetoacetic ester are stirred in 40 ml of glacial acetic acid for 2 hours at 90° C. The mixture is then diluted with water and the precipitated crystals are filtered off with suction, washed again with water and dried under reduced pressure.

reactant | 2-hydrazino-1,3-benzothiazole | 12.1 mmol, 2 g | N(N)C=1SC2=C(N1)C=CC=C2 | C7H7N3S
reactant | water | O | H2O
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 2-(1,3-benzothiazol-2-yl)-5-methyl-2,4-dihydro-3H-pyrazol-3-one | S1C(=NC2=C1C=CC=C2)N2N=C(CC2=O)C | C11H9N3OS
